US08877968B2
66 mg (0.19 mmol) of ethyl 4-cyclohexylpiperidine-4-carboxylate trifluoroacetate are diluted in 3 mL of dichloromethane and 3 mL of dimethylformamide, and 67 mg (0.21 mmol) of TBTU and 75 mg (0.21 mmol) of 2-{3-ethyl-3-[2-(1H-imidazol-4-yl)ethyl]ureido}-3-(4-methoxyphenyl)propionic acid and 0.06 mL (0.38 mmol) of diisopropylethylamine are added. After 2 hours of stirring at room temperature, aqueous 1N NaOH solution is added and the organic products are extracted with dichloromethane. The organic phase is dried and then evaporated. The crude product obtained is chromatographed on silica gel (eluent: 95/5 dichloromethane/methanol). 34 mg of ethyl 4-cyclohexyl-1-[2-{3-ethyl-3-[2-(1H-imidazol-4-yl)ethyl]ureido}-3-(4-methoxyphenyl)propionyl]piperidine-4-carboxylate in the form of a yellow oil are obtained in a yield of 30%.

reactant | ethyl 4-cyclohexylpiperidine-4-carboxylate trifluoroacetate | 0.19 mmol, 66 mg | FC(C(=O)O)(F)F.C1(CCCCC1)C1(CCNCC1)C(=O)OCC
reactant | TBTU | 0.21 mmol, 67 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | 2-{3-ethyl-3-[2-(1H-imidazol-4-yl)ethyl]ureido}-3-(4-methoxyphenyl)propionic acid | 0.21 mmol, 75 mg | C(C)N(C(NC(C(=O)O)CC1=CC=C(C=C1)OC)=O)CCC=1N=CNC1 | C18H24N4O4
reactant | diisopropylethylamine | 0.38 mmol, 0.06 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | NaOH | 1N | [OH-].[Na+]
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | ethyl 4-cyclohexyl-1-[2-{3-ethyl-3-[2-(1H-imidazol-4-yl)ethyl]ureido}-3-(4-methoxyphenyl)propionyl]piperidine-4-carboxylate | 34 mg, yield of 30% | C1(CCCCC1)C1(CCN(CC1)C(C(CC1=CC=C(C=C1)OC)NC(=O)N(CCC=1N=CNC1)CC)=O)C(=O)OCC | C32H47N5O5
